data/mechanism_extracts/JOC/10.1021_jo500559r.json
{"doi": "10.1021_jo500559r", "journal": "JOC", "is_review": false, "rxn_class_summary": "Anodic oxidation of 4,4'-dimethoxystilbene and substituted stilbenes to give tetraaryltetrahydrofurans, dehydrotetralins, aldehydes, indanyl acetamides, and pallidol/ampelopsin F-type products via radical cation dimerization", "mechanism_family": ["radical_anodic", "radical_cation", "cation_initiated", "direct_SET"], "electrochemical_role": "Anodic one-electron oxidation of the stilbene alkene to a radical cation, which dimerizes to a stable dication; subsequent nucleophilic capture (H2O, MeOH, AcOH, AcO-, MeCN) and intramolecular cyclization steps are non-electrochemical", "key_intermediates": [{"name": "stilbene radical cation (30)", "smiles": "[CH+]([c]1ccc(OC)cc1)[CH]c1ccc(OC)cc1", "role": "transient"}, {"name": "open-chain dication 31 from radical cation dimerization (threo 31a and meso 31b)", "smiles": null, "role": "reactive"}, {"name": "hydroxylated benzylic cation 32 (from H2O attack on 31)", "smiles": null, "role": "reactive"}, {"name": "spirocyclic carbocation 33 (ring-closed onto OH; precursor to aldehydes 1e/1f)", "smiles": null, "role": "reactive"}, {"name": "deprotonated cation 34 (styryl cation from 31)", "smiles": null, "role": "transient"}, {"name": "spirocyclic carbocation 35 (dearomatized; precursor to dehydrotetralins via 1,2-shift)", "smiles": null, "role": "reactive"}, {"name": "methoxylated spirocyclic cation 36 (MeOH analog of 33; precursor to acetals 1g/1h)", "smiles": null, "role": "reactive"}, {"name": "open-chain cation 37 (alkyl stilbene dication for stilbene 17)", "smiles": null, "role": "reactive"}, {"name": "indanyl cation (from cation 35-type cyclization in alkyl stilbenes)", "smiles": null, "role": "reactive"}, {"name": "tetraaryltetrahydrofurans 1a/1b", "smiles": null, "role": "off_pathway"}, {"name": "dehydrotetralins 1c/1d", "smiles": null, "role": "off_pathway"}], "electron_flow": "The anode removes one electron from the stilbene to give a radical cation (30), which dimerizes through C-C bond formation at the β-carbons to a stable dication (31); nucleophiles (H2O, MeOH, AcO-, MeCN) then attack 31 or its rearranged spirocyclic cations (33, 35, 36) to deliver tetrahydrofurans, acetals, aldehydes, dehydrotetralins, or acetamides after deprotonation.", "rate_determining_step": "Radical cation dimerization of 30 to dication 31 (per Steckhan's kinetic studies)", "probe_reagents": [{"name": "added water (1% H2O in MeCN/LiClO4)", "smiles": "O", "purpose": "intermediate_trap", "observation": "Traps dication 31 to give tetrahydrofurans 1a/1b as major products, confirming dication is the primary electrolysis product"}, {"name": "nonaqueous workup (SiO2/CH2Cl2)", "smiles": null, "purpose": "other", "observation": "Markedly reduced tetrahydrofuran yield and increased dehydrotetralin yield, showing THFs arise from H2O attack during workup"}, {"name": "methanol (Steckhan's conditions, 25% MeOH/CH2Cl2)", "smiles": "CO", "purpose": "intermediate_trap", "observation": "Gives dimethyl acetals 1g/1h as major products via methoxylated spirocation 36, supporting spirocyclic intermediate"}, {"name": "sodium acetate / AcOH (Eberson's conditions)", "smiles": "CC(=O)[O-].[Na+]", "purpose": "intermediate_trap", "observation": "AcO- captures the radical cation 30 before dimerization, giving acetates 1i/1j (62%)"}, {"name": "Br2/CH2Cl2 on dehydrotetralin 1d", "smiles": "BrBr", "purpose": "other", "observation": "Gives 1,6-dibromo-7-methoxy-2,3,4-tris(4-methoxyphenyl)naphthalene confirming 1d skeleton"}, {"name": "differentially disubstituted stilbenes (4-OMe vs 4'-CF3, 4'-NMe2 etc.)", "smiles": null, "purpose": "other", "observation": "Aryl migration in unsymmetrical stilbenes rules out open-chain carbocation; supports spirocyclic intermediate. Stronger donor placement determines regiochemistry of THF and dication coupling, supporting radical cation dimerization model"}, {"name": "X-ray diffraction on 1a, 1b, 1c, 1h, 1i, 1j, 2d, 6d, 14k, 15k, 16k, 20r, 21p, 22p, 22s, 23p, 23s, 25p", "smiles": null, "purpose": "other", "observation": "Unambiguous configurational assignment of products supporting the proposed pathways"}, {"name": "acetonitrile solvent (Ritter-type capture)", "smiles": "CC#N", "purpose": "intermediate_trap", "observation": "Traps indanyl cation in alkyl-substituted stilbenes 17-20 to give indanyl acetamides and tetralinyl acetamides (20q/20r), supporting cationic cyclization pathway"}], "evidence_types_used": ["intermediate_trap_other", "isolation_of_intermediate", "crossover", "cyclic_voltammetry", "stoichiometric_intermediate", "other"], "evidence_strength": "strong", "notes": "Favored mechanism: one-electron anodic oxidation -> radical cation 30 -> radical cation dimerization to dication 31 -> nucleophile/intramolecular trapping. Alternative pathway via 1,2-aryl shifts in an open-chain carbocation 32 (Scheme 2, path a) was initially proposed for aldehyde 1e but ruled out by results on unsymmetrically substituted stilbenes, which require a spirocyclic cation (33/35/36) for the observed aryl migrations. Two cation-radical coupling modes (threo 31a, C2; meso 31b) explain the two THF diastereomers 1a/1b. Two ring-expansion pathways from spirocation 35 (1,2-p-methoxybenzyl shift -> 1c; 1,2-p-methoxystyryl shift -> 1d) compete, with the styryl shift preferred ~5:1 for stilbene 1. Competing radical cation capture (vs. dimerization) operates in the presence of strong nucleophiles (NaOAc). For alkyl/EWG-substituted stilbenes, open-chain dication and acetonitrile (Ritter) trapping become competitive."}
